US07160888B2
Synthesis of 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,6]naphthyridin-2-one
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,6]naphthyridin-2-one (0.417 g, 0.937 mmol) was hydrogenated using Ra—Ni (0.25 g) in THF for 2 hours. The reaction was filtered and concentrated to give a white solid. EtOAc was added and the product crashed out. The precipitate was filtered and dried to give the title compound as a white solid (0.391 g, 93%). MS: APCI: M+1: 447.2 (Exact Mass: 446.16).

reactant | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-3,4-dihydro-1H-[1,6]naphthyridin-2-one | 0.937 mmol, 0.417 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC1=NC=C2CCC(NC2=C1)=O | C23H26Cl2N4O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 0.25 g | [Ni] | Ni
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-3,4-dihydro-1H-[1,6]naphthyridin-2-one | 0.391 g, 93% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC1=NC=C2CCC(NC2=C1)=O | C23H28Cl2N4O
